US09212147B2
To a solution (10 ml) of 3,4-bis(benzyloxy)-6-[(E)-2-(4-chlorophenyl)vinyl]pyridazine (200 mg) in dichloromethane were added triethylamine (200 μL) and 2,4,6-triisopropylbenzenesulfonylhydrazide (700 mg), and the mixture was stirred at room temperature for 40 hr. Triethylamine (200 μL) and 2,4,6-triisopropylbenzenesulfonylhydrazide (700 mg) were added, and the mixture was further stirred at room temperature for 24 hr. Water was added, and the mixture was extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 3,4-bis(benzyloxy)-6-[2-(4-chlorophenyl)ethyl]pyridazine (70 mg).

reactant | 3,4-bis(benzyloxy)-6-[(E)-2-(4-chlorophenyl)vinyl]pyridazine | 10 ml, 200 mg | C(C1=CC=CC=C1)OC=1N=NC(=CC1OCC1=CC=CC=C1)\C=C\C1=CC=C(C=C1)Cl | C26H21ClN2O2
reactant | triethylamine | 200 μL | C(C)N(CC)CC | C6H15N
reactant | Triethylamine | 200 μL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,4-bis(benzyloxy)-6-[2-(4-chlorophenyl)ethyl]pyridazine | 70 mg | C(C1=CC=CC=C1)OC=1N=NC(=CC1OCC1=CC=CC=C1)CCC1=CC=C(C=C1)Cl | C26H23ClN2O2
